US03957763
Following the procedure of Example 1, 1-bromo-3-ethyl-7-methyl-2,6-nonadiene and 7-hydroxy-chromane are reacted to form 7-(3-ethyl-7-methyl-2,6-nonadienyloxy)-chromane of boiling point 140°-141°C/0.001 mmHg.

reactant | 1-bromo-3-ethyl-7-methyl-2,6-nonadiene | BrCC=C(CCC=C(CC)C)CC | C12H21Br
reactant | 7-hydroxy-chromane | OC1=CC=C2CCCOC2=C1 | C9H10O2
product | 7-(3-ethyl-7-methyl-2,6-nonadienyloxy)-chromane | C(C)C(=CCOC1=CC=C2CCCOC2=C1)CCC=C(CC)C | C21H30O2
